US07745475B2
3-(Benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoic acid
Lithium hydroxide monohydrate (1.30 g, 0.03 mol) in water (40 mL) was added to a solution of methyl 3-(benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoate (4.11 g, 0.012 mol) in THF (80 mL) and the reaction mixture stirred for 20 hours at ambient temperature. The THF was removed in vacuo. The aqueous residue was adjusted to pH3 with 1M hydrochloric acid and extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine (50 mL), dried (MgSO4), filtered, and evaporated to give the desired compound (3.79 g).

reactant | Lithium hydroxide monohydrate | 0.03 mol, 1.30 g | O.[OH-].[Li+]
reactant | methyl 3-(benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoate | 0.012 mol, 4.11 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)O[C@@H](COC)C | C19H22O5
solvent | water | 40 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoic acid | 3.79 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H](COC)C | C18H20O5
